US09278915B2
Intermediate 97: {4-[(4-{[(2Z)-2-(Methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}acetonitrile
To a 50 mL RB flask fitted with magnetic stirrer was charged dry Toluene. To the stirred solvent was added 2-(4-Hydroxymethyl-phenoxy)-1-phenyl-ethanone O-methyl-oxime (0.20 g, 0.74 mmol) and (4-hydroxyphenyl)acetonitrile (0.098 g, 0.74 mmol) at 0° C. for 5 min. Then added tributylphosphine (0.0.24 g, 1.2 mmol) stirred at 0° C. for 15 min, was added 1,1′aza(dicarbonyl)dipiperidine (0.303 g, 1.2 mmol), this resulting mass stirred at RT for 16 h, The solvent removed, the residue was extracted with ethyl acetate. The organic layer washed with water and brine solution and dried by anhydrous sodium sulphate and evaporated, purified by 100-200 silica column using pet-ether and ethylacetate. The product obtained as a colourless oily liquid (0.18 g, 60.00%)

reactant | 2-(4-Hydroxymethyl-phenoxy)-1-phenyl-ethanone O-methyl-oxime | 0.74 mmol, 0.20 g | CON=C(COC1=CC=C(C=C1)CO)C1=CC=CC=C1 | C16H17NO3
reactant | (4-hydroxyphenyl)acetonitrile | 0.74 mmol, 0.098 g | OC1=CC=C(C=C1)CC#N | C8H7NO
reactant | tributylphosphine | 1.2 mmol | C(CCC)P(CCCC)CCCC | C12H27P
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | {4-[(4-{[(2Z)-2-(Methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}acetonitrile | 0.18 g, 60.00% | CO\N=C(/COC1=CC=C(COC2=CC=C(C=C2)CC#N)C=C1)\C1=CC=CC=C1 | C24H22N2O3
